US07259183B2
To a solution of 7.54 g of 2-bromo-6-iodo-4-(trifluoromethyl)-aniline (21 mmol) in 70 ml triethylamine were added 723 mg of Pd(PPh3)2Cl2 (1 mmol), 196 mg of CuI (1 mmol) and 3.14 ml of ethinyltrimethylsilane (23 mmol). The reaction mixture was stirred for 3 h at rt before the triethylamine was removed under reduced pressure. Then DCM was added and the resulting suspension was filtered. The filtrate was then concentrated and the residue purified by chromatography (silica gel; c-hexane/EtOAc 19:1) to yield 6.51 g (94%) of 2-bromo-4-trifluoromethyl-6-trimethylsilanylethynyl-phenylamine as a dark brown liquid. 1H NMR (CDCl3, 300 MHz): δ 0.28 (s, 9H), 4.99 (br s, 2H), 7.51 (s, 1H), 7.61 (s, 1H).

reactant | 2-bromo-6-iodo-4-(trifluoromethyl)-aniline | 21 mmol, 7.54 g | BrC1=C(N)C(=CC(=C1)C(F)(F)F)I | C7H4BrF3IN
reactant | ethinyltrimethylsilane | 23 mmol, 3.14 ml | C(#C)[Si](C)(C)C | C5H10Si
solvent | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 1 mmol, 723 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1 mmol, 196 mg | [Cu]I
product | 2-bromo-4-trifluoromethyl-6-trimethylsilanylethynyl-phenylamine | 6.51 g, 94% | BrC1=C(C(=CC(=C1)C(F)(F)F)C#C[Si](C)(C)C)N | C12H13BrF3NSi
